US06720320B2
(S)-2-(4-glycidyloxybenzo(b)furan-2-yl)-5-methyl-1,3,4-thiadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 1 using 2-(4-hydroxybenzo(b)furan-2-yl)-5-methyl-1,3,4-thiadiazole (1.1 g), (S)-glycidyl nosylate (1.2 g) and potassium carbonate (3.0 g), the title compound (1.0 g) was obtained as yellow crystals.

reactant | 2-(4-hydroxybenzo(b)furan-2-yl)-5-methyl-1,3,4-thiadiazole | 1.1 g | OC1=CC=CC=2OC(=CC21)C=2SC(=NN2)C | C11H8N2O2S
reactant | (S)-glycidyl nosylate | 1.2 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 3.0 g | C([O-])([O-])=O.[K+].[K+]
product | (S)-2-(4-glycidyloxybenzo(b)furan-2-yl)-5-methyl-1,3,4-thiadiazole | 1.0 g | C([C@@H]1CO1)OC1=CC=CC=2OC(=CC21)C=2SC(=NN2)C | C14H12N2O3S
